US08445490B2
A mixture of ethyl 4-(4-(4-(6-(tert-butoxycarbonylamino)hexyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate (1.0 g) and K2CO3 (1.25 g) in acetone (12 mL)/water (12 mL) was heated at 110° C. for 24 hours. After cooling to room temperature, the mixture was acidified with 1N HCl to pH=3. The white precipitate was collected, washed with water (20 mL) and dried under vacuum to give 4-(4-(4-(6-(tert-butoxycarbonylamino)hexyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid (0.72 g).

reactant | ethyl 4-(4-(4-(6-(tert-butoxycarbonylamino)hexyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate | 1.0 g | C(C)(C)(C)OC(=O)NCCCCCCOC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OCC)C=C2)C=C1 | C32H41F3N6O6
reactant | K2CO3 | 1.25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 12 mL | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | acetone | 12 mL | CC(=O)C | C3H6O
product | 4-(4-(4-(6-(tert-butoxycarbonylamino)hexyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid | 0.72 g | C(C)(C)(C)OC(=O)NCCCCCCOC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)O)C=C2)C=C1 | C30H37F3N6O6
